US06656937B2
3-benzylaminopiperidine-2,6-dione
A solution of 0.50 g 3-aminopiperidine-2,6-dione (K. Fickentscher, Arch. Pharm. 1974, 307, 840-844), 1.5 ml triethylamine and 0.4 ml benzyl bromide was stirred for 20 h at 20° C. It was then evaporated, the residue taken up in 50 ml aqueous potassium carbonate solution (10% K2CO3) and the solution extracted twice with 40 ml ethyl acetate each. The organic phases were washed with 50 ml each of distilled water and saturated sodium chloride solution, dried over sodium sulfate and evaporated in vacuo. The residue was purified by flash chromatography on silica gel with a mixture of ethyl acetate/cyclohexane (2/1) containing 1% triethylamine as eluent, whereby 0.21 g (26% of theoretical) of the title compound was obtained as viscous oil.

reactant | 3-aminopiperidine-2,6-dione | 0.50 g | NC1C(NC(CC1)=O)=O | C5H8N2O2
reactant | benzyl bromide | 0.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
product | 3-benzylaminopiperidine-2,6-dione | C(C1=CC=CC=C1)NC1C(NC(CC1)=O)=O | C12H14N2O2
